US05814378
In a flask whose content had been replaced with Ar, 1.5 g of 4-(8-hydroxyoctyloxy)-4'-[2-(perfluorobutyl)ethyloxy]biphenyl, 0.3 g of triethylamine, and 16 ml of tetrahydrofuran were placed. While this solution was being cooled with ice water, 0.3 g of acryloyl chloride was added dropwise. The reaction solution was allowed to warm up to room temperature, and was stirred for 3 hours. Thereafter, the reaction solution was poured into water and an organic layer was extracted with benzene. After the benzene layer was washed with water and dried over sodium sulfate anhydrous, the solvent was distilled away. The residue was purified by silica gel column chromatography (eluent: benzene), and recrystallized from acetone to give 0.7 g of 4-[8-(acryloyloxy)octyloxy]-4'-[2-(perfluorobutyl)ethyloxy]biphenyl (Y: 44.4%). The purity of the compound thus obtained was 98.4% by GC; 99.4% by HPLC; and 1 spot by TLC. The phase transition temperature of the resultant compound was as shown in Table 2 below.

reactant | 4-(8-hydroxyoctyloxy)-4'-[2-(perfluorobutyl)ethyloxy]biphenyl | 1.5 g | OCCCCCCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)OCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C26H29F9O3
reactant | triethylamine | 0.3 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
reactant | acryloyl chloride | 0.3 g | C(C=C)(=O)Cl | C3H3ClO
solvent | water | O | H2O
product | 4-[8-(acryloyloxy)octyloxy]-4'-[2-(perfluorobutyl)ethyloxy]biphenyl | 0.7 g, 44.4% | C(C=C)(=O)OCCCCCCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)OCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C29H31F9O4
